** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc_tb/tgmux_tb.sch
**.subckt tgmux_tb
V1 VP 0 1.8
V2 VN 0 0
C1 outa net3 305f
V3 net2 0 PULSE(0.9 -0.9 0 10p 10p 5.83n 11.7n)
E1 SB net1 net2 0 -1
E2 S net1 net2 0 1
V4 net1 0 0.9
V5 VDD 0 0.9
x1 outa outb VP VN S SB VDD 0 tgmuxdiff
C2 net3 outb 305f
x2 VP VN S SB out VDD 0 tgmux
C3 0 out 9.5f
**** begin user architecture code


*.include ./tgmux_tb.save
.control
 tran 1p 100ns
 save all
 remzerovec
 *plot S SB out
 write tgmux_tb.raw
.endc


.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends

* expanding   symbol:  tgmuxdiff.sym # of pins=8
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/tgmuxdiff.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/tgmuxdiff.sch
.subckt tgmuxdiff OUTA OUTB VP VN S SB VDD VSS
*.iopin VDD
*.iopin VSS
*.iopin VP
*.iopin VN
*.iopin S
*.iopin SB
*.iopin OUTA
*.iopin OUTB
x1 VP VN S SB OUTB VDD VSS tgmux
x2 VP VN SB S OUTA VDD VSS tgmux
.ends


* expanding   symbol:  tgmux.sym # of pins=7
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/tgmux.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/tgmux.sch
.subckt tgmux VP VN S SB OUT VDD VSS
*.iopin VP
*.iopin VN
*.ipin S
*.ipin SB
*.opin OUT
*.iopin VDD
*.iopin VSS
XM1 OUT SB VN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=2.5 nf=1 ad=0.725 as=0.725 pd=5.58 ps=5.58 nrd=0.116 nrs=0.116 sa=0 sb=0 sd=0
+ mult=1
XM2 OUT S VN VDD sky130_fd_pr__pfet_01v8 L=0.15 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XM3 OUT S VP VSS sky130_fd_pr__nfet_01v8 L=0.15 W=2.5 nf=1 ad=0.725 as=0.725 pd=5.58 ps=5.58 nrd=0.116 nrs=0.116 sa=0 sb=0 sd=0
+ mult=1
XM4 OUT SB VP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
.ends

.end
